US06552022B1
3-(3-Methyl-[1,2,4]oxadiazol-5-yl)-benzaldehyde
A mixture of 3-[1,3]dioxolan-2-yl-benzamide (2.3 g) and dimethylacetamide dimethylacetal (4 g) was heated under reflux for 1 hour and then evaporated to dryness. The oily residue was dissolved in dioxane (20 mL) and hydroxylamine hydrochloride (1.18 g), acetic acid (20 mL) and a 2N aqueous sodium hydroxide solution (9 mL) were added and the mixture was heated at 90° C. for 2 hours. After evaporation, the residue was dissolved in toluene (100 mL) and a 1N hydrochloric acid solution (50 mL) was added and the mixture was stirred at reflux for 2 hours. After cooling at room temperature the organic phase was decanted, washed with water, dried over Na2SO4, filtered and evaporated to give the title compound (2.3 g) as a white solid.

reactant | 3-[1,3]dioxolan-2-yl-benzamide | 2.3 g | O1C(OCC1)C=1C=C(C(=O)N)C=CC1 | C10H11NO3
reactant | dimethylacetamide dimethylacetal | 4 g | COC(C)(N(C)C)OC | C6H15NO2
product | 3-(3-Methyl-[1,2,4]oxadiazol-5-yl)-benzaldehyde | 2.3 g | CC1=NOC(=N1)C=1C=C(C=O)C=CC1 | C10H8N2O2
